US07041685B2
5-(3-Cyano-thiophen-2-yl)-3-(5-trifluoromethyl-pyridin-2-yl)-[1,2,4]-oxadiazole
To a stirred solution of 3-cyano-thiophene-2-carboxylic acid (42.5 mg, 0.278 mmol) and methylene chloride (1.5 mL) in an ice bath under argon, was added oxalyl chloride (205 μL, 0.410 mmol) over 2 min and then 2 drops of dimethylformamide. The solution was stirred for 5 min, the ice bath was removed, and the solution was stirred for 1 h. The solution was concentrated to dryness to yield a white solid. To the solid was added 5-trifluoromethyl-pyridine-2-amidoxime (56.4 mg, 0.275 mmol) and pyridine (1.6 mL), and the resultant solution was stirred for 10 min at ambient temperature. The solution was then refluxed for 21 h. The solution was cooled to room temperature and the product was precipitated by addition of 5 mL of deionized water. The precipitate was filtered, washed with deionized water, and dried under vacuum to yield 38.3 mg (43%) of the title compound as a pink solid. 1H NMR (CDCl3): 9.09 (m, 1H), 8.40 (d, J=8.25 Hz, 1H), 8.16 (dd, J=8.24, 2.20 Hz, 1H), 7.80 (d, J=5.22 Hz, 1H), 7.52 (d, J=5.22 Hz, 1H).

reactant | 3-cyano-thiophene-2-carboxylic acid | 0.278 mmol, 42.5 mg | C(#N)C1=C(SC=C1)C(=O)O | C6H3NO2S
reactant | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 0.410 mmol, 205 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-trifluoromethyl-pyridine-2-amidoxime | 0.275 mmol, 56.4 mg | FC(C=1C=CC(=NC1)C(N)=NO)(F)F | C7H6F3N3O
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | pyridine | 1.6 mL | N1=CC=CC=C1 | C5H5N
product | 5-(3-Cyano-thiophen-2-yl)-3-(5-trifluoromethyl-pyridin-2-yl)-[1,2,4]-oxadiazole | 38.3 mg, 43% | C(#N)C1=C(SC=C1)C1=NC(=NO1)C1=NC=C(C=C1)C(F)(F)F | C13H5F3N4OS
